US06355641B1
To a solution of 4-ethoxymethylene-2-naphthalen-1-yl-4H-oxazol-5-one (6.30 g, 23.7 mmol) in tetrahydrofuran, piperidin-4-yl-carbamic acid tert-butyl ester (4.70 g, 23.7 mmol) was added, and the mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated under reduced pressure to yield [1-(2-naphthalen-1-yl-5-oxo-oxazol-4-ylidenemethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester.

reactant | 4-ethoxymethylene-2-naphthalen-1-yl-4H-oxazol-5-one | 23.7 mmol, 6.30 g | C(C)OC=C1N=C(OC1=O)C1=CC=CC2=CC=CC=C12 | C16H13NO3
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 23.7 mmol, 4.70 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [1-(2-naphthalen-1-yl-5-oxo-oxazol-4-ylidenemethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C=C1N=C(OC1=O)C1=CC=CC2=CC=CC=C12)=O | C24H27N3O4
